US04088773
N,2-Dimethyl-N-(1-Methylpyrrol-3-yl)propanamide
2-Methyl-N-(1-methylpyrrol-3-yl)propanamide (2.50 g, 0.015 mol) in dry dimethylformamide (10 ml) was cooled to below 0° C. and stirred under nitrogen during the addition of 50% sodium hydride/oil (0.73 g, 0.0152 mol). After the addition, the mixture was stirred at 0° C. for 30 minutes and then brought to 15° C. when iodomethane (4.30 g, 0.0302 mol) was added. The mixture was stirred at room temperature overnight and then poured into water (200 ml) and the mixture extracted with ether (4 × 50 ml). The combined extracts were washed with water (3 × 50 ml) and dried over magnesium sulphate. The solvent was removed in vacuo to leave a solid which separated from pentane at -10° C as white flakes (2.11 g, 78%).

reactant | 2-Methyl-N-(1-methylpyrrol-3-yl)propanamide | 0.015 mol, 2.50 g | CC(C(=O)NC1=CN(C=C1)C)C | C9H14N2O
reactant | sodium hydride | 0.0152 mol, 0.73 g | [H-].[Na+]
reactant | iodomethane | 0.0302 mol, 4.30 g | IC | CH3I
reactant | water | 200 ml | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N,2-Dimethyl-N-(1-Methylpyrrol-3-yl)propanamide | CN(C(C(C)C)=O)C1=CN(C=C1)C | C10H16N2O
